US08871756B2
6-Benzyl-8-nitro-2-oxa-6-aza-spiro[3.4]octane
To a solution of benzyl-methoxymethyl-trimethylsilanylmethyl-amine (3.0 g, 12.6 mmol) and 3-nitromethylene-oxetane (1.38 g, 12.0 mmol) in dichloromethane (60 mL) was added trifluoroacetic acid (0.93 mL, 12.6 mmol) dropwise. The mixture was stirred at room temperature for 2 hours, quenched with sodium carbonate, extracted with dichloromethane. The organic layer was dried over sodium sulfate, concentrated in vacuo. The residue was purified by column chromatography on silica gel to give 2 g of product as colorless oil. It was used for next step without further purification.

reactant | benzyl-methoxymethyl-trimethylsilanylmethyl-amine | 12.6 mmol, 3.0 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | 3-nitromethylene-oxetane | 12.0 mmol, 1.38 g | [N+](=O)([O-])C=C1COC1 | C4H5NO3
reactant | trifluoroacetic acid | 12.6 mmol, 0.93 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 6-Benzyl-8-nitro-2-oxa-6-aza-spiro[3.4]octane | 2 g | C(C1=CC=CC=C1)N1CC2(COC2)C(C1)[N+](=O)[O-] | C13H16N2O3
